datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[O:10][H:11]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:5])[H:6].[H:4][O:10][H:11],-4.184
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23](=[C:24]([H:26])[H:27])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:23](=[C:24]([H:26])[H:27])[H:25])[H:13])([H:11])[H:12],7.19648
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13](=[O:14])[O:15][O:16])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:16][O:15][C:13]([C:12]([H:17])([H:18])[H:19])=[O:14],56.6814848
[C:0](#[C:1][C:2]([C:3]#[C:4][H:9])=[C:5]([C:6](=[C:7]([H:12])[H:13])[H:11])[H:10])[H:8].[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:9])([C:5]([C:6](=[C:7]([H:12])[H:13])[H:11])[H:10])[H:14])[H:8],14.3093
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:17][O:30][O:31],199.11656
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[S:8]=[C:9]([S:10][H:12])[H:11]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:12])[H:5].[S:8]=[C:9]([S:10])[H:11],35.9824
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:19])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])=[C:9]([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12],309.616
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[H:21])[H:11])([H:9])[H:10],8.61904
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13],8.1588
[C:0]1([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21>>[C:0]12([H:10])[C:1]([H:11])([H:12])[C:2]1([H:13])[C:3]([H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]12,122.315056
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([O:16][O:17])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][O:17][O:16][C:15]([C:14]([H:18])([H:19])[H:20])([H:21])[H:22],85.60464
[C:0]([C:1]([O:2][O:3][H:10])([C:4]([C:5]([H:12])([H:13])[H:14])([C:6]([H:15])([H:16])[H:17])[H:11])[H:9])([H:7])[H:8].[O:18][O:19]>>[C:0]([C:1]([O:2][O:3][H:10])([C:4]([C:5]([H:12])([H:13])[H:14])([C:6]([H:15])([H:16])[H:17])[H:11])[H:9])([H:7])([H:8])[O:18][O:19],0.8313608
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[c:27]1[c:28]([H:33])[c:29]([H:34])[c:30]([H:35])[c:31]([H:36])[c:32]1[H:37]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[c:27]1[c:28]([H:33])[c:29]([H:34])[c:30]([H:35])[c:31]([H:36])[c:32]1[H:37])[H:15])([H:13])[H:14],-3.80744
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[H:8][H:11],0.0
[C:0]([H:1])([H:2])[H:3].[C:4]1([H:10])[C:5]([H:11])=[C:6]([H:12])[C:7]([H:13])([H:14])[C:8]([H:15])([H:16])[C:9]1([H:17])[H:18]>>[C:0]([H:1])([H:2])([H:3])[H:17].[C:4]1([H:10])=[C:9]([H:18])[C:8]([H:15])([H:16])[C:7]([H:13])([H:14])[C:6]([H:12])=[C:5]1[H:11],0.0
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[H:6]>>[C:0]([O:1])([H:2])([H:3])[H:4].[H:5][H:6],38.580664
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([C:22](=[C:23]([H:27])[H:28])[H:26])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:21]([C:22](=[C:23]([H:27])[H:28])[H:26])([H:24])[H:25])[H:11],47.1537
